US05364560
Said benzoate (4.7 mmols) was dissolved in 20 ml of ethanol, and 9.7 mmols of benzylamine were added. The mixture was stirred overnight. To the reaction mixture was added 50 ml of dichloromethane. The organic layer was washed with a hydrochloric acid aqueous solution and water in this sequence. Subsequently, the organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated. The obtained crude product was purified by silica gel column chromatography to afford 1-methylpentyl p-hydroxybenzoate in a yield of 100%.

reactant | benzoate | 4.7 mmols | C(C1=CC=CC=C1)(=O)[O-]
reactant | benzylamine | 9.7 mmols | C(C1=CC=CC=C1)N | C7H9N
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 1-methylpentyl p-hydroxybenzoate | yield of 100% | OC1=CC=C(C(=O)OC(CCCC)C)C=C1 | C13H18O3
